US06541473B2
4-(1,4-Dithiaspiro[4.5]dec-8-yl)-1,3-benzenediol
To a round bottomed flask equipped with magnetic stirrer was added 4-(2,4-dihydroxyphenyl)cyclohexanone (1 g) and toluene (40 ml). To the stirred solution was added ethane-1,2-dithiol (0.49 ml) and a few crystals of p-toluenesulfonic acid monohydrate and the reaction mixture was heated under reflux for 3.5 hr. The reaction mixture was cooled to room temperature, saturated sodium hydrogencarbonate solution (20 ml) was added, and the layers were separated. The aqueous layer was diluted with water (40 ml) and extracted into ethyl acetate (3×30 ml). The combined organic phases were washed with brine (30 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. Purification via flash chromatography (SiO2, ethyl acetate/petroleum ether 2:3 v/v) furnished the title compound (1.34 g, 98%) as a white solid. δH (CD3OD): 1.59-1.73 (2H, m), 1.75-1.84 (2H, m), 1.98-2.08 (2H, m), 2.14-2.22 (2H, m), 2.77 (1H, tt), 3.22-3.32 (4H, m), 6.18-6.24 (2H, m), 6.85 (1H, d); m/z (ES+) 283 (M+H)+.

reactant | 4-(2,4-dihydroxyphenyl)cyclohexanone | 1 g | OC1=C(C=CC(=C1)O)C1CCC(CC1)=O | C12H14O3
reactant | ethane-1,2-dithiol | 0.49 ml | C(CS)S | C2H6S2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1,4-Dithiaspiro[4.5]dec-8-yl)-1,3-benzenediol | 1.34 g, 98% | S1CCSC12CCC(CC2)C2=C(C=C(C=C2)O)O | C14H18O2S2
